US06541638B2
157 mg (0.24 mmol) (2S,4R)-4-(2-{[4-(4-Methoxy-benzylsulfanyl)-1-(2-phenyl-ethanesulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino}-acetylamino)-benzoic acid ethyl ester were treated with 0.1 M LiOH according to 5.2., the crude product (2S,4R)-4-(2-{[4-(4-Methoxy-benzylsulfanyl)-1-(2-phenyl-ethanesulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino}-acetylamino)-benzoic acid was dissolved in 1 ml TFA and heated to 75° C. in the presence of 23 mg (0.24 mmol) phenol for 1.5 h. The solvent was evaporated, the oil dissolved in toluene and evaporated (twice), the residue was titurated from hexane to yield 45 mg (2S,4R)-4-[2-[[4-Mercapto-1-(2-phenyl-ethanesulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetylamino]-benzoic acid as light yellow solid, MS: 506 (MH+).

reactant | (2S,4R)-4-(2-{[4-(4-Methoxy-benzylsulfanyl)-1-(2-phenyl-ethanesulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino}-acetylamino)-benzoic acid ethyl ester | 0.24 mmol, 157 mg | C(C)OC(C1=CC=C(C=C1)NC(CN(C)C(=O)[C@H]1N(C[C@@H](C1)SCC1=CC=C(C=C1)OC)S(=O)(=O)CCC1=CC=CC=C1)=O)=O | C33H39N3O7S2
reactant | LiOH | 0.1 M | [Li+].[OH-]
reactant | (2S,4R)-4-(2-{[4-(4-Methoxy-benzylsulfanyl)-1-(2-phenyl-ethanesulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino}-acetylamino)-benzoic acid | COC1=CC=C(CS[C@@H]2C[C@H](N(C2)S(=O)(=O)CCC2=CC=CC=C2)C(=O)N(CC(=O)NC2=CC=C(C(=O)O)C=C2)C)C=C1 | C31H35N3O7S2
reactant | phenol | 0.24 mmol, 23 mg | C1(=CC=CC=C1)O | C6H6O
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S,4R)-4-[2-[[4-Mercapto-1-(2-phenyl-ethanesulfonyl)-pyrrolidine-2-carbonyl]-methyl-amino]-acetylamino]-benzoic acid | 45 mg | S[C@@H]1C[C@H](N(C1)S(=O)(=O)CCC1=CC=CC=C1)C(=O)N(CC(=O)NC1=CC=C(C(=O)O)C=C1)C | C23H27N3O6S2
